US08729061B2
Step 2: (2S)-2-amino-1-(benzo[d]oxazol-2-yl)butan-1-ol dihydrochloride
Under an atmosphere of argon, tert-butyl (2S)-1-(benzo[d]oxazol-2-yl)-1-hydroxybutan-2-ylcarbamate (800 mg, 2.61 mmol, Eq: 1.00) and HCl 4M in dioxane (17.3 ml) were combined to give a dark brown solution. The reaction was stirred for 2 h at RT. The crude reaction mixture was concentrated in vacuo, and the residual solvent was removed under vacuum. The title compound was obtained as a dark brown gum (910 mg, quant., MS (m/e)=207.1 [M+H+]).

reactant | tert-butyl (2S)-1-(benzo[d]oxazol-2-yl)-1-hydroxybutan-2-ylcarbamate | 2.61 mmol, 800 mg | O1C(=NC2=C1C=CC=C2)C([C@H](CC)NC(OC(C)(C)C)=O)O | C16H22N2O4
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 17.3 ml | O1CCOCC1 | C4H8O2
product | (2S)-2-amino-1-(benzo[d]oxazol-2-yl)butan-1-ol dihydrochloride | Cl.Cl.N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)CC | InChI=1S/C11H14N2O2.2ClH/c1-2-7(12)10(14)11-13-8-5-3-4-6-9(8)15-11;;/h3-7,10,14H,2,12H2,1H3;2*1H/t7-,10?;;/m0../s1
